US08563089B2
24.0 mmol (5.58 g) of 7-octenyltrimethoxysilane (OTMS) was added to 5.58 g of a 1% acetic acid aqueous solution (pH ˜3.5) in a 25-mL flask. After stirring for 6 hours at room temperature, a transparent 7-octenylsilanol solution was obtained. The hydrolyzed 7-octenylsilanol solution was added to a slurry containing 60 g of silica (Z115GR, Rhodia Silica) and 150 g of methanol, and the mixture was stirred at room temperature for 10 minutes. Then, after evaporating the solvent and volatile materials using a rotary vacuum evaporator, residual solid particles were dehydration condensed in an oven at 130° C. for 8 hours to prepare silica (hydrophobic, highly dispersible functional reinforcing filler) surface-modified with the 7-octenyl group.

reactant | 7-octenyltrimethoxysilane | 24.0 mmol, 5.58 g | C(CCCCCC=C)[Si](OC)(OC)OC | C11H24O3Si
solvent | acetic acid | pH ˜3.5 | C(C)(=O)O | C2H4O2
product | 7-octenylsilanol | C(CCCCCC=C)[SiH2]O | C8H18OSi
